US04451658
To 50 grams of a solution of 20% ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate (10 grams, 40 mmoles) in toluene containing 2.4 ml of absolute ethanol (1.9 grams, 41 mmoles) were added, dropwise, over 20 minutes, 8.6 ml of 96% sulfuric acid (15 grams, 160 mmoles, containing 0.63 gram, 35 mmoles of water). During the addition, the temperature of the reaction mixture rose to about 50° C., and the mixture became heterogeneous. The reaction mixture was then heated in an oil bath at 75°-80° C. for 75 minutes with stirring. Gas evolution was observed. The reaction mixture was then diluted with 25 ml of toluene and cooled to 5° C. Then 75 ml of ice water was added in one portion with vigorous stirring. After five minutes, the organic layer was separated and dried with magnesium sulfate. Gas chromatographic analysis indicates the toluene contained 9% ethyl 1,4-dimethylpyrrole-2 -acetate. The toluene was removed by vacuum distillation at 100 mm of mercury followed by vacuum distillation of the residue at 1 mm of mercury to give a fraction which weighed 5.5 grams. This corresponds to a 78% yield of ethyl 1,4-dimethylpyrrole-2-acetate.

reactant | ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate | 40 mmoles, 10 grams | CN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C13H19NO4
reactant | ethanol | 41 mmoles, 1.9 grams | C(C)O | C2H6O
reactant | sulfuric acid | 160 mmoles, 8.6 ml, 15 grams | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 2.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1,4-dimethylpyrrole-2-acetate | 78% yield | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
